US08389555B2
STEP A: Preparation of benzothiazole-6-carboxylic acid (4-hydroxy-butyl)-amide (14A).
2.69 g (15 mmol) of benzothiazole-6-carboxylic acid is dissolved in a mixture of 1.34 g (15 mmol) 4-amino-butan-1-ol and 70 mL dry tetrahydrofuran. 2.43 g (15 mmol) of CDI is added after stirring for 30 minutes and then stirred for another hour. The mixture is concentrated in vacuum. The resulting residue is suspended in dichloromethane, water is added, and the organic phase is separated. The aqueous phase is extracted with dichloromethane twice. The combined organic phases are dried over sodium sulfate and concentrated in vacuum.

reactant | benzothiazole-6-carboxylic acid | 15 mmol, 2.69 g | S1C=NC2=C1C=C(C=C2)C(=O)O | C8H5NO2S
reactant | 4-amino-butan-1-ol | 15 mmol, 1.34 g | NCCCCO | C4H11NO
reactant | CDI | 15 mmol, 2.43 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | benzothiazole-6-carboxylic acid (4-hydroxy-butyl)-amide | OCCCCNC(=O)C1=CC2=C(N=CS2)C=C1 | C12H14N2O2S
